US05124327
Step A: N-Methoxy-N-methyl-3-phenylthioindole-2-carboxamide
Benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (1.64 g, 3.7 mmol) was added to a solution of 3-phenylthioindole-2-carboxylic acid (1.0 g, 3.7 mmol), N,O-dimethylhydroxylamine hydrochloride (0.54 g, 5.5 mmol) and triethylamine (1.5 mL, 11 mmol) in degassed dimethylformamide. The reaction was stirred at room temperature overnight. The precipitated product was filtered and the filter cake washed well with water. The solid was triturated with 30% ethyl acetate in hexane, filtered and dried at 60° C. in vacuo for 72 hours.

reactant | Benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 3.7 mmol, 1.64 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 3-phenylthioindole-2-carboxylic acid | 3.7 mmol, 1.0 g | C1(=CC=CC=C1)C1=C(NC2=CC=CC=C12)C(=S)O | C15H11NOS
reactant | N,O-dimethylhydroxylamine hydrochloride | 5.5 mmol, 0.54 g | Cl.CNOC
reactant | triethylamine | 11 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-Methoxy-N-methyl-3-phenylthioindole-2-carboxamide | CON(C(=S)C=1NC2=CC=CC=C2C1C1=CC=CC=C1)C | C17H16N2OS
